US08071779B2
N-(1-Benzylpiperidin-3-yl)-3-methyl-1H-indazol-5-amine, Compound 1.049
The title compound was prepared by reaction of 1-(5-amino-3-methyl-1H-indazol-1-yl)-2,2-dimethylpropan-1-one with tert-butyl 3-oxopiperidine-1-carboxylate using the method of Example 3, deprotection using the method of Example 4, reaction with benzaldehyde following the method of Example 8, and final deprotection using the method of Example 9.

reactant | 1-(5-amino-3-methyl-1H-indazol-1-yl)-2,2-dimethylpropan-1-one | NC=1C=C2C(=NN(C2=CC1)C(C(C)(C)C)=O)C | C13H17N3O
reactant | tert-butyl 3-oxopiperidine-1-carboxylate | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | N-(1-Benzylpiperidin-3-yl)-3-methyl-1H-indazol-5-amine | C(C1=CC=CC=C1)N1CC(CCC1)NC=1C=C2C(=NNC2=CC1)C | C20H24N4
